US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}[1,1′-biphenyl]-4-sulfonamide hydrochloride was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide (0.081 g, 0.18 mmol) and, 1,1′-biphenyl-4-sulfonyl chloride (0.059 g, 0.24 mmol) to give 42.9 mg of a light purple solid; Anal. (C24H27ClN4O3S) C, H, N, S.; M+ 563.5 Calcd 563.17.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | 0.18 mmol, 0.081 g | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 1,1′-biphenyl-4-sulfonyl chloride | 0.24 mmol, 0.059 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}[1,1′-biphenyl]-4-sulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C29H30N4O4S2.ClH/c34-38(35,26-10-5-2-6-11-26)32-29-22-25(33-20-7-18-30-19-21-33)14-17-28(29)31-39(36,37)27-15-12-24(13-16-27)23-8-3-1-4-9-23;/h1-6,8-17,22,30-32H,7,18-21H2;1H
